US08008298B2
3-[7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-N-methyl-benzenesulfonamide was prepared starting from 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one and 3-methylsulfamoylphenylboronic acid following general procedures as described in these Examples. MP 245-247° C., M+H=373.

reactant | 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | BrC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C11H12BrN3O
reactant | 3-methylsulfamoylphenylboronic acid | CNS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H10BNO4S
product | 3-[7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-N-methyl-benzenesulfonamide | CC(C(=O)C1=CNC2=NC=C(N=C21)C=2C=C(C=CC2)S(=O)(=O)NC)(C)C | C18H20N4O3S
